US03935314
2-(5-hydroxybenzimidazolyl)amino-2-imidazoline
2-(5-Methoxybenzimidazolyl)amino-2-imidazoline (prepared as described in Example 22 (2.55 g 0.011 mol) acetic anhydride (60 ml) and hydrogenbromide (48%) (50 ml) were heated under reflux for 4 hours. The mixture was cooled, evaporated under reduced pressure. The resulting sticky solid was dissolved in water and the filtered solution neutralised with sodium bicarbonate. This aqueous solution was extracted with ethyl acetate. The combined extracts were evaporated under reduced pressure to yield a light brown solid (0.87g) m.p. 254°-258°C. Recrystallisation from methanol gave a low recovery of 2-(5-hydroxybenzimidazolyl)amino-2-imidazoline monohydrate (0.16 g) as pale brown microcrystals m.p. 319°C (decomp.).

reactant | 2-(5-Methoxybenzimidazolyl)amino-2-imidazoline | COC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1 | C11H13N5O
reactant | acetic anhydride | 0.011 mol, 60 ml, 2.55 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | hydrogenbromide | 50 ml | Br | BrH
product | 2-(5-hydroxybenzimidazolyl)amino-2-imidazoline | 0.87g | OC1=CC2=C(N=C(N2)NC=2NCCN2)C=C1 | C10H11N5O
